US07807709B2
a. 8-Hydroxy-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester
To a solution of 3,4,5-trihydroxy-benzoic acid ethyl ester (5.00 g, 24.2 mmol) in DMF (70 mL) are added 1,2-dibromoethane (2.13 mL, 24.2 mmol) and CsCO3 (16.9 g, 50.9 mmol) and the mixture is stirred overnight at room temperature and for 5 hrs at 60° C. Extractive work-up with diethyl ether, washing of the organic phase with brine and evaporation gives the crude product as brown oil which is purified by silica gel chromatography (hexane/AcOEt 3:2). The title compound is obtained as a white solid. TLC, Rf (hexane/AcOEt 1:1)=0.27. MS: 223.0 [M−H]+. 1H-NMR (CDCl3): δ 1.40 (t, 3H), 4.3-4.42 (m, 6H), 5.45 (s, 1H), 7.23 (s, 1H), 7.29 (s, 1H) ppm.

reactant | 3,4,5-trihydroxy-benzoic acid ethyl ester | 24.2 mmol, 5.00 g | C(C)OC(C1=CC(=C(C(=C1)O)O)O)=O | C9H10O5
reactant | 1,2-dibromoethane | 24.2 mmol, 2.13 mL | BrCCBr | C2H4Br2
solvent | DMF | 70 mL | CN(C)C=O | C3H7NO
product | 8-Hydroxy-2,3-dihydro-benzo[1,4]dioxine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC2=C(OCCO2)C(=C1)O | C11H12O5
